US08389717B2
N-(4-Chloro-phenyl)-6-isopropoxy-N′-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-N-methyl-[1,3,5]triazine-2,4-diamine
This compound was prepared from (4-chloro-6-isopropoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine and 4-chloro-N-methyl aniline in analogy to example 1c. Chromatography on Si—NH2 gel (Isolute) using ethyl acetate as an eluent gave the title compound as a colorless solid in 27% yield.

reactant | (4-chloro-6-isopropoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | ClC1=NC(=NC(=N1)OC(C)C)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C17H19ClN6O2
reactant | 4-chloro-N-methyl aniline | ClC1=CC=C(NC)C=C1 | C7H8ClN
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-Chloro-phenyl)-6-isopropoxy-N′-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-N-methyl-[1,3,5]triazine-2,4-diamine | 27% yield | ClC1=CC=C(C=C1)N(C1=NC(=NC(=N1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)OC(C)C)C | C24H26ClN7O2
